Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of a congenitally 
enlarged right ventricle, Raynaud's syndrome, and history of 
spontaneous pneumothorax who presents from an OSH after a 
syncopal episode during exercise.

Mr. ___ states that he was exercising (cardio, weights) at the 
gym with a trainer when he began to develop nausea and 
diaphoresis. He endorses tachycardia at this time but feels that 
it was consistent with his exertion at the time. He denies 
palpitations or chest pain. He then went to the bathroom in an 
attempt to vomit but was unable to; he then woke up on the floor 
approximately 30 seconds later. He felt weak and fatigued after 
the episode, though per his trainer's report, he did not have 
any tonic clonic movements or tongue biting. Upon trying to 
stand, he was unable to bear weight on his left leg. Of note, 
this was the first time that Mr. ___ had worked out with a 
trainer in 3 months, though he states he exercised at home in 
the interim. Prior to exercising he notes that he ate 4 eggs and 
denies any supplement use.

EMS was then contacted and he was transported to ___. 
En route, he developed a headache that was ___ in intensity, 
started in the left occipital region and spread to encompass his 
entire head. He states that he felt "foggy" throughout this 
time. He was also noted to be hypotensive but was normotensive 
upon arrival to the OSH.

At the OSH, he continued to endorse generalized weakness. An EKG 
showed sinus rhythm. Both a CT/CTA of the head and neck and MRI 
of the cervical and thoracic spine were performed. The CT/CTA of 
the head was negative for any acute pathology including 
hemorrhage, acute infarct, mass, vessel thrombus or dissection. 
Of note, there was a  right inferior lobe thyroid nodule with 
extension into the superior mediastinum. The MRI of the cervical 
and thoracic spine was negative for ischemia or cord injury. He 
was subsequently transferred here for evaluation of a potential 
spinal cord injury.

In the ED, initial vitals were: T 99, HR 104, BP 127/77, RR 18, 
O2 100% RA. Repeat EKG showed sinus tachycardia. Labs were 
notable for a bicarb of 20, CK of 122, TSH of 0.99, and WBC of 
12. He was given ondansetron 4 mg IV, morphine sulfate 4 mg IV, 
and 1L NS. Neurology was consulted and felt that neither his 
sensory nor motor exam were consistent with a specific pattern. 
Cardiology was consulted and recommended echo, which 
demonstrated right ventricular cardiomyopathy. He was then 
transferred to the floor for further workup and management.

On the floor, he states that he is much improved, noting a ___ 
headache and improved strength. 
 
Past Medical History:
PAST MEDICAL HISTORY:  
1. RVH in-utero (care at ___)
2. Lethargy/twitches seen at ___ as child
3. Spontaneous pneumothorax
4. Raynaud's syndrome
5. Strep bacteremia at 6 months old
6. s/p tonsillectomy
7. s/p adenoidectomy
 
Social History:
___
Family History:
Father (___); anxiety, HTN, hypercholesterolemia. Mother (___); no 
known history. Grandfather and aunt with epilepsy. No known 
history of thyroid disease or bleeding disorders. 
 
Physical Exam:
===================
Admission Exam: 
===================
Vital Signs:  T 98.5 P 82 (82-85) BP 126/87 (126-133/77-87) O2 
98 RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI with slight 
nystagmus/jerk upon left lateral gaze, PERRL, neck supple, no 
LAD, thyroid with no appreciable nodules 
CV: Regular rate and rhythm, split S1, normal S2, no murmurs, 
rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, non-edematous
Neuro: CNII-XII intact, ___ strength left lower extremity, ___ 
strength upper extremities bilaterally and right lower 
extremity, grossly normal sensation, gait deferred, no 
dysmetria, no dysdiadochokinesia 
 
===================
Discharge Exam: 
===================
Vital Signs:  T 97.8 P 75 (71-75) BP 100/60 (100-133/60-87) R 22 
(___) O2 100 RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI with slight 
nystagmus/jerk upon left lateral gaze, PERRL
CV: Regular rate and rhythm, split S1, normal S2, no murmurs, 
rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, non-edematous
Neuro: CNII-XII intact, ___ strength throughout, grossly normal 
sensation, gait deferred, no dysmetria, no dysdiadochokinesia 
  
 
Pertinent Results:
===================
ADMISSION RESULTS
===================
___ 11:30PM BLOOD WBC-12.0* RBC-4.59* Hgb-14.1 Hct-40.0 
MCV-87 MCH-30.7 MCHC-35.3 RDW-12.2 RDWSD-39.1 Plt ___
___ 11:30PM BLOOD Neuts-76.9* Lymphs-14.3* Monos-7.5 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-9.26* AbsLymp-1.72 
AbsMono-0.90* AbsEos-0.08 AbsBaso-0.05
___ 11:30PM BLOOD Plt ___
___ 11:30PM BLOOD Glucose-65* UreaN-19 Creat-0.8 Na-140 
K-3.8 Cl-107 HCO3-20* AnGap-17
___ 11:30PM BLOOD CK(CPK)-122
___ 11:30PM BLOOD Calcium-9.3 Phos-4.3 Mg-2.1
___ 11:30PM BLOOD TSH-0.99
___ 11:30PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 01:00AM URINE Color-Yellow Appear-Clear Sp ___
___ 01:00AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-150 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 01:00AM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 01:00AM URINE Mucous-RARE
___ 01:00AM URINE bnzodzp-NEG barbitr-NEG opiates-POS 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
===================
DISCHARGE RESULTS 
===================
___ 06:25AM BLOOD WBC-5.7# RBC-4.72 Hgb-14.4 Hct-41.9 
MCV-89 MCH-30.5 MCHC-34.4 RDW-12.2 RDWSD-39.8 Plt ___
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-89 UreaN-13 Creat-0.8 Na-139 
K-4.4 Cl-103 HCO3-26 AnGap-14
___ 06:25AM BLOOD Calcium-10.0 Phos-3.3 Mg-1.8
===================
MICROBIOLOGY
===================
None 
===================
IMAGING 
===================
ECG Study Date of ___  6:39:52 ___ 
Sinus tachycardia. Non-specific ST-T wave abnormalities, 
probably rate 
related with upsloping ST segment depressions in leads V2-V6. No 
previous 
tracing available for comparison. Clinical correlation is 
suggested.  
Heart Rate 113 PR129 QRS91 QT318 QTc410/436

EEG Study Date of ___ 
Impression: Normal routine EEG during wakefulness and brief 
drowsiness.   

Portable TTE (Congenital, complete) Done ___ at 12:21:55 
___      FINAL 
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF = 60%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). The right 
ventricular free wall thickness is normal. The right ventricular 
cavity is mildly dilated with mild global free wall hypokinesis 
(fractional area change = 34%; normal > 40%). The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. 
IMPRESSION: right ventricular cardiomyopathy  

MR HEAD W/O CONTRAST Study Date of ___ 8:30 AM   
1. Unremarkable MRI and MRV of the brain with no evidence for 
sinus venous 
thrombosis. 

 
Brief Hospital Course:
======================
Hospital Course
======================
Mr. ___ is a ___ year old male with a history of a congenitally 
enlarged right ventricle who presented from an OSH after a 
syncopal episode followed by left sided weakness and headache, 
likely consistent with a neurocardiogenic etiology. 

# Syncope: Mr. ___ experienced a syncopal episode in the 
setting of exertion that was followed by a few hours of 
confusion/fatigue, as well as two days of left sided weakness 
that gradually improved. By the time of discharge, Mr. ___ was 
fully functional. This was thought to be neurocardiogenic in 
etiology given prodrome of nausea and diaphoresis in the setting 
of volume depletion and intense exercise. However, to rule out 
other etiologies including seizure, acute intracranial processes 
(e.g. hemorrhage, ischemia), and cardiac arrhythmia, cardiology 
and neurology were consulted. Mr. ___ underwent various studies 
while hospitalized including EKG (normal sinus rhythm), 
telemetry (no arrhythmia noted), EEG (negative for epileptiform 
changes), and MRI/MRV (normal without evidence of sinus venous 
thrombosis). Of note, echocardiogram demonstrated right 
ventricular cardiomyopathy. This was considered as a potential 
contributing factor but less likely given lack of arrhythmia on 
telemetry/EKG.

# Muscle weakness: Mr. ___ developed left sided weakness after 
his syncopal event that had resolved by the time of discharge. 
This was thought to be secondary to muscle fatigue. Other 
etiologies were also considered but felt to be less likely, 
including post-ictal state (EEG normal), electrolyte abnormality 
(electrolytes were normal), myopathy (CK normal), and focal 
neurologic process (MRI/MRV were normal).

# Ketonuria: Urinalysis demonstrated 150 ketones upon admission. 
This was likely secondary to starvation/carbohydrate-poor diet 
(for example, ate only 4 eggs prior to workout). This is less 
likely secondary to diabetes given lack of hyperglycemia 
(glucose on admission was 53). 

# Anion gap metabolic acidosis: Mr. ___ had a bicarb of 20 on 
admission with a slightly elevated anion gap of 13; resolved to 
26 on the day of discharge. Given history of exertion and 
syncope, this was likely secondary to lactic acidosis. 

# Leukocytosis: Mr. ___ had a WBC of 12 on admission, decreased 
to 5.7 on day of discharge. Though to be secondary to stress; 
less likely infection given lack of localizing signs or 
symptoms.

======================
Transitional Issues
======================
======================
Transitional Issues
======================
1. Right ventricular cardiomyopathy was demonstrated on echo. 
Given history of enlarged right ventricle in-utero, patient will 
need cardiology follow-up and consider cardiac MRI. Please 
ensure this occurs. 
2. Thyroid nodule demonstrated on CT extending into the 
mediastinum. TSH was normal at 0.99. Consider further evaluation 
by ultrasound or other workup as clinically warranted. 

======================
Other
======================
# CODE:  Full code (presumed)
# CONTACT:  ___ (mother) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
===================
Primary Diagnoses
===================
1. Syncope

===================
Secondary Diagnoses
===================
1. Thyroid nodule
2. Muscle weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your stay at ___. 

You were admitted to the hospital after you passed out while 
exercising. This was likely due to exercising without enough 
fluid and food in your body. You had an EEG which did not show 
any signs of seizure. You also had an MRI which did not show any 
signs of abnormalities in your brain or blood vessels. While in 
the hospital, you remained on a heart monitor which did not show 
any irregular rhythms. In the future, you should be sure to 
drink plenty of fluids prior to exercising. 

On one of the imaging tests we performed, we also found a nodule 
on your thyroid. While your thyroid function tests were normal, 
it is very important that you follow up further imaging or 
workup of this nodule with your primary care physician. 

Please follow up with your primary care physician (PCP) in the 
next few days after you leave the hospital. You will also need 
follow up with a cardiologist after you leave the hospital and 
with the neurology urgent care clinic in 2 weeks. We have 
provided you with phone numbers that you can call to make your 
cardiology and neurology appointments. 
 

Best wishes!
Your ___ Team
 
Followup Instructions:
___